### ISSUE TITLE
`apply` tactic produces proof that does not typecheck

### ISSUE THREAD

**Issue by dwrensha** [leanprover/lean4#1870]
```lean
class Zero.{u} (α : Type u) where
  zero : α

instance Zero.toOfNat0 {α} [Zero α] : OfNat α (nat_lit 0) where
  ofNat := ‹Zero α›.1

instance Zero.ofOfNat0 {α} [OfNat α (nat_lit 0)] : Zero α where
  zero := 0

class One (α : Type u) where
  one : α

instance One.toOfNat1 {α} [One α] : OfNat α (nat_lit 1) where
  ofNat := ‹One α›.1

instance One.ofOfNat1 {α} [OfNat α (nat_lit 1)] : One α where
  one := 1

-- (we don't expect this proof to actually work)
example : (@OfNat.ofNat Nat 0 Zero.toOfNat0) = @OfNat.ofNat Nat 1 One.toOfNat1 := by
  apply congrArg
  apply congrArg
  apply rfl
```

We get "goals accomplished", but with the error
```
application type mismatch
  congrArg (@OfNat.ofNat Nat 0) (congrArg (@Zero.toOfNat0 Nat) rfl)
argument has type
  Zero.toOfNat0 = Zero.toOfNat0
but function has type
  Zero.toOfNat0 = { ofNat := One.one } → OfNat.ofNat 0 = OfNat.ofNat 0
```

This is reportedly blocking https://github.com/leanprover-community/mathlib4/pull/669, because it leads the `solve_by_elim` and `library_search` tactics astray.

This behavior was observed on `leanprover/lean4:nightly-2022-11-19`.
